US06642389B2
In analogy to the procedures described in examples 114 b], c] and d], 3-allyl-4-hydroxy-benzaldehyde was reacted with methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester [PCT Int. Appl. (2000) WO0008002] to give 3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde. Treatment of 3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde with (benzyloxycarbonyl-ethoxy-methyl)-triphenyl-phosphonium chloride (prepared in analogy to the procedure described for the synthesis of (benzyloxycarbonyl-methoxy-methyl)-triphenyl-phosphonium chloride in example 114 a]) then gave 3-{3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2(Z,E)-ethoxy-acrylic acid benzyl ester, which was hydrogenated to yield [rac]-2-ethoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-propionic acid as colorless solid.

reactant | 3-allyl-4-hydroxy-benzaldehyde | C(C=C)C=1C=C(C=O)C=CC1O | C10H10O2
reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
product | 3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | C(C=C)C=1C=C(C=O)C=CC1OCCC=1N=C(OC1C)C1=CC=CC=C1 | C22H21NO3
